US07420001B2
To 110 mg (0.53 mmol) of 4-methoxy-3-methyl-benzofuran-2-carboxylic acid was added 2 mL of oxalyl chloride and the resulting mixture was refluxed for 4 h in the presence of a catalytic amount of DMF, then the excess oxalyl chloride was removed under vacuum. The residue was dissolved in 2 mL of dichloromethane and was added to a mixture of 232 mg (0.64 mmol) of (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester and 2 mL of pyridine in an ice/water bath. The mixture was stirred at room temperature overnight. All the solvents were removed under vacuum. Column chromatography on silica gel gave 95 mg (33% yield) of (S)-2-{4′-[(4-methoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid methyl ester as off white solid.

reactant | 4-methoxy-3-methyl-benzofuran-2-carboxylic acid | 0.53 mmol, 110 mg | COC1=CC=CC2=C1C(=C(O2)C(=O)O)C | C11H10O4
reactant | oxalyl chloride | 2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester | 0.64 mmol, 232 mg | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C18H22N2O4S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | (S)-2-{4′-[(4-methoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid methyl ester | 95 mg, 33% yield | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C(=CC=C2)OC)=O | C29H30N2O7S
